US07081454B2
2-(4-Chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-7-methyl-3H-benzimidazole-5-carbonitrile:
A suspension of 2-(4-iodo-2-methoxy-pyridin-3-yl)-7-methyl-3H-benzimidazole-5-carbonitrile (1.8 g, 4.63 mmol) in 4 M HCl dioxane (40 mL) was heated to 80° C. for 6 h and cooled to room temperature. The precipitate was filtered and dried. The crude product (1.08 g, 82%) was used for the next step without purification. LRMS (neg. ESI, (M−H)−) m/z 283.

reactant | 2-(4-iodo-2-methoxy-pyridin-3-yl)-7-methyl-3H-benzimidazole-5-carbonitrile | 4.63 mmol, 1.8 g | IC1=C(C(=NC=C1)OC)C=1NC2=C(N1)C(=CC(=C2)C#N)C | C15H11IN4O
reactant | HCl dioxane | 4 M, 40 mL | O1CCOCC1.Cl
product | 2-(4-Chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-7-methyl-3H-benzimidazole-5-carbonitrile | ClC1=C(C(NC=C1)=O)C=1NC2=C(N1)C(=CC(=C2)C#N)C | C14H9ClN4O
